US05475114
(C) 2-Methyl-6-propyl-1H-pyrazolo[1,5-b][1,2,4]triazole
A 5.38 g portion of N-(5-propyl-1H-pyrazol-3-yl)acetamidoxime was dissolved in 45 ml of N,N-dimethylacetamide. With cooling on an ice bath, to this were added 2.39 ml of pyridine and 5.63 g of p-toluenesulfonic acid chloride, followed by 30 minutes of stirring at the same temperature and additional 3 hours of stirring at room temperature. The resulting reaction mixture was added to 350 ml of water and extracted with chloroform. After distilling off chloroform from the organic layer under a reduced pressure, the thus obtained residue was dissolved in 135 ml of methanol, mixed with 2.39 ml of pyridine and then heated under reflux for 2 hours.

reactant | N-(5-propyl-1H-pyrazol-3-yl)acetamidoxime | C(CC)C1=CC(=NN1)NC(C)=NO | C8H14N4O
reactant | pyridine | 2.39 ml | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonic acid chloride | 5.63 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | 350 ml | O | H2O
solvent | N,N-dimethylacetamide | 45 ml | CN(C(C)=O)C | C4H9NO
product | 2-Methyl-6-propyl-1H-pyrazolo[1,5-b][1,2,4]triazole | CC=1NC=2N(N1)N=C(C2)CCC | C8H12N4
